US05968967
3-(4-t-Butylphenyl)-4-chlorocarbonyl-1-(4-cyanophenyl)-2-methyl-2H-pyrazol-5-one
A mixture of 12.1 g of 3-(4-t-butylphenyl)-1-(4-cyanophenyl)-4-hydroxycarbonyl-2-methyl-2H-pyrazol-5-one and 100 ml of thionyl chloride was stirred at room temperature for 1 hour. The reaction solution was concentrated under reduced pressure, and the residue was recrystallized in a liquid mixture of n-hexane-toluene to give 14.0 g of the title compound as pale yellow crystals.

reactant | 3-(4-t-butylphenyl)-1-(4-cyanophenyl)-4-hydroxycarbonyl-2-methyl-2H-pyrazol-5-one | 12.1 g | C(C)(C)(C)C1=CC=C(C=C1)C=1N(N(C(C1C(=O)O)=O)C1=CC=C(C=C1)C#N)C | C22H21N3O3
reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-(4-t-Butylphenyl)-4-chlorocarbonyl-1-(4-cyanophenyl)-2-methyl-2H-pyrazol-5-one | 14.0 g | C(C)(C)(C)C1=CC=C(C=C1)C=1N(N(C(C1C(=O)Cl)=O)C1=CC=C(C=C1)C#N)C | C22H20ClN3O2
